Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
Excision of intracardiac left atrial tumor (? myxoma)
 
History of Present Illness:
___ year old male from ___
has been found to have a left atrial mass measuring 5.2 x 3.0 
cm.
This was discovered after he underwent workup for some
musculoskeletal chest pain and had an abnormal EKG in ___. He
describes that the chest pain was occurring for about a month in
___ but has now totally resolved. He was referred to Dr.
___ has recommended TEE followed by cardiac
catheterization via left radial access to further evaluate. He 
is
now being referred to cadiac surgery for removal of left atrial
mxyoma.

 
Past Medical History:
s/p atrial mass excision- final pathology pending
PMH:
Hemorrhoids, Gastritis, Benign colon polyps, appendectomy, 
removal of benign colon polyps
 
Social History:
___
Family History:
father had CAD,
died of MI at age ___. Mother had CABG this year at age ___

 
Physical Exam:
Pulse:70 Resp:18  O2 sat:100/RA
B/P  Right:125/73    Left:124/77
Height:6'     Weight:180 lbs

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+[x]
Extremities: Warm [x], well-perfused [x]  Edema; none
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: +2  Left:+2
DP           Right:+2   Left:+2
___           Right:+2   Left:+2
Radial       Right:+2   Left:cath site

Carotid Bruit none       Right:    Left:

 
Pertinent Results:
___ 06:20AM BLOOD Hct-38.6*
___ 06:25AM BLOOD WBC-10.8 RBC-4.13* Hgb-12.7* Hct-37.4* 
MCV-91 MCH-30.7 MCHC-33.9 RDW-12.4 Plt ___
___ 02:25AM BLOOD WBC-13.5* RBC-4.26* Hgb-13.1* Hct-38.4* 
MCV-90 MCH-30.8 MCHC-34.1 RDW-12.5 Plt ___
___ 11:09AM BLOOD ___ PTT-30.2 ___
___ 06:20AM BLOOD UreaN-13 Creat-0.8 Na-137 K-4.1 Cl-100
___ 06:25AM BLOOD Glucose-96 UreaN-16 Creat-1.0 Na-136 
K-4.3 Cl-99 HCO3-30 AnGap-11
.
___ Intra-op TEE:
Conclusions  
PRE-BYPASS: 
The left atrium is dilated. No spontaneous echo contrast is seen 
in the body of the left atrium. No spontaneous echo contrast is 
seen in the body of the left atrium or left atrial appendage. A 
mass 5cm x 3.5 cm consistent with a myxoma or tumor is seen in 
the body of the left atrium. The mass was attached to the fossa 
ovalis portion of the interatrial septum with a broad base of 
2cm. No other attachments were seen. It was seen prolapsing into 
the left ventricle in diastole with no flow compromise. 
No atrial septal defect is seen by 2D or color Doppler. 
Left ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Right ventricular 
chamber size and free wall motion are normal. 
The ascending, transverse and descending thoracic aorta are 
normal in diameter and free of atherosclerotic plaque to 40cm 
from the incisors. 
The aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Mild (1+) aortic regurgitation is seen. 

The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. No mitral regurgitation is seen. There is 
no pericardial effusion. 
Dr. ___ was notified in person of the results before surgical 
incision.

POST-BYPASS: 
Normal biventricular systolic funciton.
Mitral valve anatomy and function normal.
Interatrial septum post patc h closure is intact.
Intact thoracic aorta.
No other new findings.   

 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent removal of left atrial mass with Dr. 
___.  Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  The patient 
was transferred to the telemetry floor for further recovery.  
Chest tubes and pacing wires were discontinued without 
complication.  The patient was evaluated by the physical therapy 
service for assistance with strength and mobility.  By the time 
of discharge on POD 4 the patient was ambulating freely, the 
wound was healing and pain was controlled with oral analgesics.  
The patient was discharged home in good condition with 
appropriate follow up instructions.  Final pathology is pending 
at the time of discharge.
 
Medications on Admission:
none
 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
RX *Adult Low Dose Aspirin 81 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*2
2. Metoprolol Tartrate 25 mg PO TID 
Hold for HR < 55 or SBP < 90 and call medical provider. 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0
3. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *Endocet 5 mg-325 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
s/p atrial mass excision
PMH:
Hemorrhoids, Gastritis, Benign colon polyps, appendectomy, 
removal of benign colon polyps 

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesics
Incisions: 
Sternal - healing well, no erythema or drainage 
Edema: none

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for one month or while taking narcotics. Driving will 
be discussed at follow up appointment with surgeon.  
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
 
Followup Instructions:
___